US06117873
d) 7-Fluoro-5-methyl-2,3-dimethoxyquinoxaline
14 g (60.6 mmol) of 2,3-dichloro-7-fluoro-5-methylquinoxaline are introduced into 165 ml of methanol. An about 5.4M solution of sodium methanolate in methanol is added dropwise. The mixture is heated to reflux and stirred for 18 hours. The reaction mixture is cooled to 0° C., the suspension is filtered off on a suction filter and washed with cold methanol, and the filter material is dried in vacuo at 60° C. The crude product is recrystallized from hexane. The title compound is obtained as white crystals of m.p. 107-109° C.

reactant | 2,3-dichloro-7-fluoro-5-methylquinoxaline | 60.6 mmol, 14 g | ClC1=NC2=CC(=CC(=C2N=C1Cl)C)F | C9H5Cl2FN2
reactant | sodium methanolate | C[O-].[Na+]
reactant | methanol | CO | CH4O
reactant | methanol | 165 ml | CO | CH4O
product | 7-Fluoro-5-methyl-2,3-dimethoxyquinoxaline | FC1=CC(=C2N=C(C(=NC2=C1)OC)OC)C | C11H11FN2O2
